US05510345
Preparation of 2-(1-adamantylamino)-4-chloro-6-pyrrolidinopyrimidine
10 g (33.53 mmoles) of 4,6-dichloro-2-(1-adamantylamino)pyrimidine are added in small portions to 40 ml of pyrrolidine at a temperature below 10° C. under cooling and stirring. After addition the reaction mixture is stirred at room temperature for 1 hour, then evaporated. The residue is distributed between 150 ml of chloroform and 30 ml of 10% sodium hydroxide solution. After separation the organic phase is washed 4 times with 50 ml of water each, then dried and evaporated. The evaporation residue is recrystallized from ethyl acetate to give the title compound in a yield of 9.60 g (86%), m.p.: 178°-180° C.

reactant | 4,6-dichloro-2-(1-adamantylamino)pyrimidine | 33.53 mmoles, 10 g | ClC1=NC(=NC(=C1)Cl)NC12CC3CC(CC(C1)C3)C2 | C14H17Cl2N3
reactant | pyrrolidine | 40 ml | N1CCCC1 | C4H9N
product | 2-(1-adamantylamino)-4-chloro-6-pyrrolidinopyrimidine | C12(CC3CC(CC(C1)C3)C2)NC2=NC(=CC(=N2)Cl)N2CCCC2 | C18H25ClN4
